US04410520
A solution of 3-amino-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (5.0 g, 0.028 mol) in dimethylformamide (100 ml) was added under a nitrogen atmosphere to a stirred suspension of sodium hydride [prepared from the 60% mineral oil dispersion (1.2 g) by washing with petroleum ether (3×150)] in dimethylformamide (400 ml) to which tetrabutylammonium bromide (10.9 g, 0.031 mol) had been added. The reaction mixture was maintained at 50° for 15 minutes, then a solution of benzyl bromoacetate (7.2 g, 0.031 mol) in dimethylformamide (25 ml) was added. The reaction mixture was stirred for an additional 18 hours at 50°, then cooled to room temperature, and the dimethylformamide removed under high vacuum. The residue was stirred with toluene/dichloromethane (1:1, 500 ml) to precipitate inorganic salts. After filtration, the solution was evaporated under reduced pressure, and the residue chromatographed on silica gel (200 g). Elution with 0-15% ethyl acetate in toluene gave 1-benzyloxycarbonylmethyl-3-benzyloxycarbonylmethylamino-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one as the first fraction. Further elution gave 3-benzyloxycarbonylamino-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one, m.p. 124°-127° C. and 3-amino-1-benzyloxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (see example 1).

reactant | 3-amino-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 0.028 mol, 5.0 g | NC1C(NC2=C(CC1)C=CC=C2)=O | C10H12N2O
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromoacetate | 0.031 mol, 7.2 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | 0.031 mol, 10.9 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-benzyloxycarbonylmethyl-3-benzyloxycarbonylmethylamino-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | C(C1=CC=CC=C1)OC(=O)CN1C(C(CCC2=C1C=CC=C2)NCC(=O)OCC2=CC=CC=C2)=O | C28H28N2O5
